US06627644B2
N-(7-{[1-(Morpholine-4-carbonyl)-piperidin-4-ylmethyl]-propyl-amino}-5,6,7,8-tetrahydro-naphthalen-2-yl)-isobutyramide
To a solution of (4-{[(7-amino-1,2,3,4-tetrahydro-naphthalen-2-yl)-propyl-amino]-methyl}-piperidin-1-yl)-morpholin-4-yl-methanone (200 μL of 0.25 M in dichloromethane, 50 μmol) was added 220 μL of a 0.25 M solution of isobutyryl chloride in dichloromethane and 30 μL of DIEA. The solution was allowed to stir for 72 h at 25° C. under N2 and was then concentrated in vacuo. The final product was isolated by preparative RPHPLC (YMC Combiprep ODS-A column, 10-90% acetonitrile: water (0.1% TFA)) to afford N-(7-{[1-(morpholine-4-carbonyl)-piperidin-4-ylmethyl]-propyl-amino}-5,6,7,8-tetrahydro-naphthalen-2-yl)-isobutyramide (8.6 mg) 96, [M+H]+=485.

reactant | (4-{[(7-amino-1,2,3,4-tetrahydro-naphthalen-2-yl)-propyl-amino]-methyl}-piperidin-1-yl)-morpholin-4-yl-methanone | 50 μmol, 0.25 M, 200 μL | NC1=CC=C2CCC(CC2=C1)N(CCC)CC1CCN(CC1)C(=O)N1CCOCC1 | C24H38N4O2
reactant | isobutyryl chloride | C(C(C)C)(=O)Cl | C4H7ClO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | DIEA | 30 μL | CCN(C(C)C)C(C)C | C8H19N
product | N-(7-{[1-(Morpholine-4-carbonyl)-piperidin-4-ylmethyl]-propyl-amino}-5,6,7,8-tetrahydro-naphthalen-2-yl)-isobutyramide | N1(CCOCC1)C(=O)N1CCC(CC1)CN(C1CCC=2C=CC(=CC2C1)NC(C(C)C)=O)CCC | C28H44N4O3
